US05616586
2-Acetylquinoline
The title compound was prepared by the route outlined in Example 22-6 to 7 starting with 6-bromo-N-ethoxalyl-2-(1-methoxycarbonylethyl)tetrahydroquinoline (less polar). In nitration step of Example 22-6, conditions of nitronium tetrafluoroborate in dichloromethane at room temperature were employed instead of those of refluxing ammonium nitrate-trifluoroacetic anhydride in chloroform: mp 242° C.; 1H NMR (270 MHz, DMSO-d6) δ12.08 (s, 1H), 7.21 (s, 1H), 7.17 (s, 1H), 4.93 (bd, 1H, J=10 Hz), 3.40 (s, 3H), 2.89 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.80 (dm, 1H, J=17.1 Hz), 2.60 (qd, 1H, J=7, 10 Hz), 2.23 (dm, 1H, J=13.5 Hz), 1.72~1.91 (m, 1H), 1.11 (d, 3H, J=7 Hz).

reactant | 6-bromo-N-ethoxalyl-2-(1-methoxycarbonylethyl)tetrahydroquinoline | BrC=1CC2CCC(N(C2=CC1)C(=O)C(=O)OCC)C(C)C(=O)OC | C17H22BrNO5
reactant | nitronium tetrafluoroborate | F[B-](F)(F)F.O=[N+]=O
reactant | ammonium nitrate trifluoroacetic anhydride | [N+](=O)([O-])[O-].[NH4+].FC(C(=O)OC(C(F)(F)F)=O)(F)F
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Acetylquinoline | C(C)(=O)C1=NC2=CC=CC=C2C=C1 | C11H9NO
